2105-12-08 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2105-12-7**] 01:46 PM
 SPUTUM CULTURE - At [**2105-12-8**] 01:30 AM
 URINE CULTURE - At [**2105-12-8**] 01:30 AM
 EKG - At [**2105-12-8**] 03:25 AM
 INVASIVE VENTILATION - START [**2105-12-8**] 04:00 AM
 EKG - At [**2105-12-8**] 04:15 AM
 EKG - At [**2105-12-8**] 04:25 AM
   Patient arrived on floor on non-rebreather, intially doing well, but
   with lots of thick secretions.  Suctioned several times but eventually
   required intubation for tachycardia, hypotension and respiratory
   fatigue.
   - Anasthesia called to bedside for intubation  -> fentanyl and
   midazolam for sedation and patient started on neosynephrine gtt for
   hypotension.
   - Art line was placed.
   - Patient givent 2.5mg IV lopressor and 10mg IV diltiazem to control
   rate.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2105-12-7**] 11:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-8**] 01:02 AM
   Infusions:
   Phenylephrine - 2.8 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2105-12-8**] 04:33 AM
   Metoprolol - [**2105-12-8**] 04:35 AM
   Diltiazem - [**2105-12-8**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-8**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 135 (81 - 180) bpm
   BP: 116/62(83) {69/44(53) - 134/79(98)} mmHg
   RR: 18 (0 - 43) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  4,833 mL
                                                                  2,231 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  2,453 mL
                                                                  2,235 mL
   Blood products:
   Total out:
                                                                    137 mL
                                                                    102 mL
   Urine:
                                                                    137 mL
                                                                    102 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,696 mL
                                                                  2,133 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 22 cmH2O
   SpO2: 98%
   ABG: 7.35/36/256/20/-4
   Ve: 8.4 L/min
   PaO2 / FiO2: 512
   Physical Examination
   Gen: Intubated, sedated
   Pupils: PERRL
   CV: tachy, irreg irreg, no M/R/G
   Pulm: No W/R/R
   Abd: Soft NT/ND, BS +
   Extr: no edema, pulses 2+
   Labs / Radiology
   395 K/uL
   10.7 g/dL
   169 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.2 mEq/L
   24 mg/dL
   112 mEq/L
   146 mEq/L
   32.3 %
   30.5 K/uL
        [image002.jpg]
                            [**2105-12-7**]  02:44 PM
                            [**2105-12-7**]  05:05 PM
                            [**2105-12-8**]  12:28 AM
                            [**2105-12-8**]  04:04 AM
                            [**2105-12-8**]  04:43 AM
                            [**2105-12-8**]  04:50 AM
   WBC
   30.5
   Hct
   32.3
   Plt
   395
   Cr
   0.7
   0.6
   0.7
   TropT
   0.08
   0.06
   0.06
   TCO2
   29
   24
   21
   Glucose
   153
   133
   169
   Other labs: CK / CKMB / Troponin-T:228/7/0.06, Lactic Acid:2.4 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assessment and Plan
   [**Age over 90 **]-year-old woman with history of HTN presented with hypoxia, dyspnea,
   found to have a LLL pneumonia.
   .
   Plan:
   # Sepsis:  Patient meets SIRS criteria for tachycardia, tachypnea, and
   WBC count with pulmonary source of infection.  Started on Levoflox,
   Zosyn, Vanc.
   - Place central line today
   - IVF boluses for CVP >11
   - Trend WBC and fever curve
   - Transfuse to Hct > 30
   - Continue Vanc/zosyn/levoflox
   - f/u sputum, blood, and urine Cx
   - Pressors for MAP >60
   - Mechanical ventilation
 daily SBT, wean vent settings as tolerated
   - Call family to re-confirm goals of care
   .
   # Pneumonia: with hypoxia requiring mechanical ventilation currently.
   Respiratory alkalosis is likely from hyperventilation. Borderline
   oxygenation with PaO2 60. CURB-65 score is [**4-14**] (depending on RR),
   predicting a30-day mortality rate of 15-40%.
   - pip-tazo, levoflox, and vancomycin for healthcare-associated
   pneumonia (from nursing home)
   - Early goal directed therapy for sepsis as above.
   - f/u sputum cx
   - blood cx
   .
   # Atrial fibrillation with RVR: Patient required lopressor x1 and
   diltiazem x1.  Patient as high as 170s for rate.
   - Rate control with  diltiazem 30mg PO QID and titrate up
   - IV dilt as needed.
   .
   # Hypernatremia: with hyperchloremia, might be due to saline
   resuscitation, or given hypovolemia on exam, could be due to impaired
   free water access due to mental status.
   - add on osmolality and lytes on admission urine sample
   - free water bolus
   - monitor chemistry closely; avoid decreasing Na by more than 0.5
   mEq/L/hr
   - monitor I/O
   .
   # Hypokalemia: from alkalemia vs. GI losses (unlikely given no history
   of diarrhea) vs. renal losses
   - replete as needed; but avoid overrepletion if etiology is
   transcellular shift
   - serial K checks
   ..
   # Comm:  Dr. [**First Name8 (NamePattern2) 2006**] [**Last Name (NamePattern1) 2138**] [**Telephone/Fax (1) 2139**] (relative?)
   ICU Care
   Nutrition: NPO for now given risk of aspiration and poor mental status
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:  hep SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: HCP niece [**Name (NI) 2138**]
   [**Name (NI) 156**] status: FULL per HCP
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2105-12-7**] 12:41 PM
   20 Gauge - [**2105-12-7**] 04:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient with the ICU resident and fellow and
   reviewed 24 hour events.  I was present during key portions of the
   services provided.  Patient remains critically ill.  Required
   intubation overnight given progressive respiratory failure, clinically
   tiring, increased thick secretions requiring frequent suctioning.
   Housestaff discussed code status again with the patient
s niece [**Name (NI) 2006**]
   in [**State 966**] who indicated she is full code prior to intubation.
   Intubated orally without noted difficulty. Also developed atrial
   fibrillation with rapid ventricular rate and hypotension prior to
   intubation.  Improved with esmolol, lopressor, and finally diltiazem.
   Aggressively volume repleted, I/O 4.8 L, poor urine output overnight
   albeit starting to pick up this am.  A-line placed.  Ventilated,
   sedated on am rounds, appears very comfortable.  Tachy, irreg at 126,
   BP 115/60 Ventilator settings as above.  Lungs with diminished BS
   throughout, no wheeze, scattered crackles L > R.  Tachy, no murmur. Abd
   soft not distended, occasional BS. No peripheral edema.  Labs as above,
   leukocytosis worsening.  CXR with increased LLL infiltrate, mild fluid
   overload.  Main issues remain hypovolemic vs. septic shock  exacerbated
   by new afib with rapid VR which is better controlled this morning.
   Plan to switch to amiodarone for afib.  Source of sepsis likely lung,
   gram stain shows GPC and GNR, urine legionella antigen negative.  Plan
   to discontinue levoquin, continue vanco/zosyn.  OGT in place, plan to
   start tube feeds.  Hypernatremia resolving with hydration and now free
   water replacement.  I agree with assessment and plan as per Dr.
   [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) 2148**]
s note above for other ICU issues.   Total time spent 45
   minutes, 0830
 0915.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2105-12-8**] 09:11 ------
   After discussion on rounds, the following decisions were made:
   1)       Afib w/ RVR
 d/c diltiazem and start amiodarone in attempt to
   rhythm control.
   2)       Sepsis
 D/c levofloxacin as urine legionella was negative.
   3)       PPX
 SQ heparin, famotidine, and Oral VAP prevention.
   4)       Remains full code for now.
   5)       ------ Protected Section Addendum Entered By:[**Name (NI) 786**] [**Name (NI) 2161**],
   MD  on:[**2105-12-8**] 11:10 ------
   6)
   7)
   8)       Electronically signed by [**First Name8 (NamePattern2) 786**] [**Last Name (NamePattern1) 2161**], MD  [**2105-12-8**] 11:10
   9)
   10)

2105-12-09 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2105-12-8**] 12:57 PM
 MULTI LUMEN - START [**2105-12-8**] 05:00 PM
 BLOOD CULTURED - At [**2105-12-8**] 10:00 PM
 FEVER - 101.2
F - [**2105-12-8**] 10:00 PM
   - Patient converted to sinus rhythm with 10 of IV diltiazem and amio
   gtt
   - Fever to 101.2, blood cx sent
   - Femoral CVL placed
   - Levaquin d/c'd
   - Placed on Amiodarone gtt
   - Started on TFs
   - Bolused NS 500ml x 3
   - K-Phos, K repletion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2105-12-7**] 11:18 PM
   Vancomycin - [**2105-12-8**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-9**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2105-12-8**] 11:00 AM
   Diltiazem - [**2105-12-8**] 10:12 PM
   Heparin Sodium (Prophylaxis) - [**2105-12-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-9**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.7
C (98
   HR: 60 (59 - 138) bpm
   BP: 126/58(83) {84/48(63) - 134/72(93)} mmHg
   RR: 18 (7 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  6,924 mL
                                                                    406 mL
   PO:
             TF:
                                                                    125 mL
                                                                    113 mL
   IVF:
                                                                  6,449 mL
                                                                    293 mL
   Blood products:
   Total out:
                                                                    442 mL
                                                                    105 mL
   Urine:
                                                                    442 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,482 mL
                                                                    302 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 112 (112 - 112) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 104
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 31.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/37/118/20/-1
   Ve: 7 L/min
   PaO2 / FiO2: 236
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: RRR. 2/6 SEM at LSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: 2+ edema At LE, 3+ edema at UE
   Labs / Radiology
   351 K/uL
   10.1 g/dL
   138 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.1 mEq/L
   19 mg/dL
   110 mEq/L
   139 mEq/L
   30.0 %
   27.6 K/uL
        [image002.jpg]
                            [**2105-12-7**]  02:44 PM
                            [**2105-12-7**]  05:05 PM
                            [**2105-12-8**]  12:28 AM
                            [**2105-12-8**]  04:04 AM
                            [**2105-12-8**]  04:43 AM
                            [**2105-12-8**]  04:50 AM
                            [**2105-12-8**]  12:46 PM
                            [**2105-12-8**]  08:33 PM
                            [**2105-12-9**]  03:29 AM
                            [**2105-12-9**]  03:48 AM
   WBC
   30.5
   27.6
   Hct
   32.3
   30.3
   30.0
   Plt
   395
   351
   Cr
   0.7
   0.6
   0.7
   0.6
   0.6
   TropT
   0.08
   0.06
   0.06
   TCO2
   29
   24
   21
   23
   Glucose
   153
   133
   169
   250
   138
   Other labs: PT / PTT / INR:16.9/41.3/1.5, CK / CKMB /
   Troponin-T:228/7/0.06, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   .
   [**Age over 90 **]-year-old woman with history of HTN presented with hypoxia, dyspnea,
   found to have a LLL pneumonia.
   .
   Plan:
   # Sepsis:  Patient meets SIRS criteria for tachycardia, tachypnea, and
   WBC count with pulmonary source of infection. On Zosyn, Vanc.
   - IVF boluses for CVP >11
   - Trend WBC and fever curve
   - Transfuse to Hct > 30
   - Continue Vanc/zosyn
   - f/u sputum, blood, and urine Cx
   - Pressors for MAP >60
   - Mechanical ventilation
 daily SBT, wean vent settings as tolerated
   - Call family to re-confirm goals of care
   .
   # Pneumonia: with hypoxia requiring mechanical ventilation currently.
   - pip-tazo, and vancomycin for healthcare-associated pneumonia (from
   nursing home)
   - f/u sputum cx
   - blood cx
   .
   # Atrial fibrillation with RVR: converted to sinus rhythm on amio gtt
   and IV dilt
   - Consider transition to PO Amio
   - IV dilt as needed if back in a-fib.
   .
   # Hypernatremia: Now Normalized.
   - monitor chemistry
   - monitor I/O
   .
   # Hypokalemia: from alkalemia vs. GI losses (unlikely given no history
   of diarrhea) vs. renal losses
   - replete as needed; but avoid overrepletion if etiology is
   transcellular shift
   - serial K checks
   ..
   # Comm:  Dr. [**First Name8 (NamePattern2) 2006**] [**Last Name (NamePattern1) 2138**] [**Telephone/Fax (1) 2139**] (relative?)
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2105-12-8**] 11:30 AM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2105-12-7**] 12:41 PM
   Arterial Line - [**2105-12-8**] 07:00 AM
   20 Gauge - [**2105-12-8**] 07:00 AM
   Multi Lumen - [**2105-12-8**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   I saw and examined the patient with the medical ICU resident and was
   present during key portions of the services provided.  Patient
   continues critically ill, ventilated and sedated.  Back in sinus rhythm
   on amiodarone. Bradycardic @55 this am. Femoral line placed for access
   given kyphosis.  Febrile overnight. + SEM at apex. Lungs with scattered
   crackles occasional wheeze.  Abdomen slightly distended, no bowel
   sounds.  Edema unchanged.  Continues to require ventilatory support for
   nosocomial pneumonia, still with large amount of secretions albeit
   reportedly thinner.  Large amount of oral secretions noted by nursing.
   Hemodynamically more stable now that she is in SR, amiodarone drip to
   end, will start oral amiodarone.  Weaning pressors, still poor urine
   output despite aggressive volume resusitation overnight.  Plan to get
   echo today to evaluate heart function and source of murmur.  Replete K+
   and phos.  Agree with assessment and plan as per Dr. [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) 2148**]
s note.
   Total time spent 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2105-12-9**] 12:44 ------

2105-12-10 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Amiodarone given 400 TID for 1 wk (started today), 400 [**Hospital1 **] for 1 wk,
   then 200 daily
   - Unable to wean pressors today [**3-14**] hypotension
   - TTE:  Mild aortic stenosis. Mild pulmonary artery systolic
   hypertension. Normal biventricular cavity sizes with preserved global
   biventricular systolic function.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2105-12-7**] 11:18 PM
   Vancomycin - [**2105-12-9**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-9**] 11:10 PM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2105-12-9**] 07:42 PM
   Heparin Sodium (Prophylaxis) - [**2105-12-9**] 11:10 PM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Not able to be obtained secondary to patients
   sedation
   Flowsheet Data as of  [**2105-12-10**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 71 (55 - 71) bpm
   BP: 135/72(94) {91/41(60) - 135/72(94)} mmHg
   RR: 21 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,361 mL
                                                                    533 mL
   PO:
             TF:
                                                                    625 mL
                                                                    314 mL
   IVF:
                                                                  1,436 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                    415 mL
                                                                    100 mL
   Urine:
                                                                    415 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,946 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   Compliance: 39.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/33/109/20/-1
   Ve: 6.6 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: RRR. 2/6 SEM at LSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: 1+ edema At LE, 2+ edema at UE
   Labs / Radiology
   313 K/uL
   9.5 g/dL
   138 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.0 mEq/L
   16 mg/dL
   109 mEq/L
   139 mEq/L
   27.6 %
   23.3 K/uL
        [image002.jpg]
                            [**2105-12-8**]  04:04 AM
                            [**2105-12-8**]  04:43 AM
                            [**2105-12-8**]  04:50 AM
                            [**2105-12-8**]  12:46 PM
                            [**2105-12-8**]  08:33 PM
                            [**2105-12-9**]  03:29 AM
                            [**2105-12-9**]  03:48 AM
                            [**2105-12-9**]  02:28 PM
                            [**2105-12-9**]  08:34 PM
                            [**2105-12-10**]  01:56 AM
   WBC
   30.5
   27.6
   23.3
   Hct
   32.3
   30.3
   30.0
   27.6
   Plt
   395
   351
   313
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   TropT
   0.06
   TCO2
   24
   21
   23
   22
   Glucose
   169
   250
   138
   105
   138
   Other labs: PT / PTT / INR:16.9/41.3/1.5, CK / CKMB /
   Troponin-T:228/7/0.06, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   TTE: IMPRESSION: Mild aortic stenosis. Mild pulmonary artery systolic
   hypertension. Normal biventricular cavity sizes with preserved global
   biventricular systolic function
   A/P:[**Age over 90 **]-year-old woman with history of HTN presented with hypoxia,
   dyspnea, found to have a LLL pneumonia.
   .
   # Sepsis:  Back on Neo 1mg. Afebrile overnight. Leukocytosis 23.3 from
   27.6.  On Zosyn, Vanc.
   - IVF boluses for CVP >11
   - Trend WBC and fever curve
   - Transfuse to Hct > 30
   - Continue Vanc/zosyn
   - f/u sputum, blood, and urine Cx
   - Pressors for MAP >60
   - Mechanical ventilation
 daily SBT, wean vent settings as tolerated
   - Call family to re-confirm goals of care
   .
   # Acute Hypoxemic Respiratory Failure: Likely secondary to PNA
   mechanical ventilation currently. Currently Vanc/Zosyn (although no
   double coverage for pseudomonas).
   - Good 02 saturation on 5 Peep 40% Fi02, consider changing pt to
   pressure support
   - pip-tazo, and vancomycin for healthcare-associated pneumonia (from
   nursing home)
   - f/u sputum cx
   - blood cx
   .
   # Atrial fibrillation with RVR: NSR overnight.
   - Cont PO Amio
   - IV dilt as needed if back in a-fib.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2105-12-10**] 05:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-12-8**] 07:00 AM
   20 Gauge - [**2105-12-8**] 07:00 AM
   Multi Lumen - [**2105-12-8**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Communication:  Dr. [**First Name8 (NamePattern2) 2006**] [**Last Name (NamePattern1) 2138**] [**Telephone/Fax (1) 2139**]
   Code status: Full code
   ------ Protected Section ------
   I saw and examined the patient with the medical ICU resident, reviewed
   events of past 24 hours and was present during key portions of the
   services provided.  Echo shows mild AS, normal LV function.  Continues
   critically ill, respiratory failure secondary to pneumonia, still
   requiring low dose pressors.  Low grade fevers. Suctioned for copious
   thick tan secretions.  Scattered rhonchi and occasional wheeze on
   exam.  Abdomen soft with occasional bowel sounds, increased pedal
   edema. Received IVF boluses throughout the day yesterday given labile
   blood pressures, ~2 L positive over past 24 hours.
   CXR poor quality albeit prior xray c/w volume overload.  No new culture
   data.
   Acute respiratory failure secondary to pneumonia and  now with
   superimposed CHF.  Echo shows preserved LV function, no significant
   valvular disease.  Plan for lasix, may actually get her on a more
   optimal part of Starling curve and improve urine output as well as
   benefit respiratory status.  Hopefully will  be able to wean pressors.
   Continue broad spectrum antibiotics.  The remainder of the plan as
   outlined by Dr. [**Last Name (STitle) 1538**] as discussed on rounds.  Agree with Dr. [**Last Name (STitle) 1538**]
   assessment and plan.
   Total time spent 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2105-12-10**] 15:33 ------

2105-12-11 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Nebs started
   - Did not tolerate weaning off pressors
   - Not diuresed very well with dependence on pressors
   - A-line tenuous, but able to get good tracing with cuff correlation.
   - C diff pending (neg x1)
   - PICC placed and R femoral line pulled
   - given scopolamine patch for secretions
   - Episode of Hypotension systolic as low as 61/33. Given 250cc Bolus
   briefly placed back on 3 of Neo.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-10**] 07:28 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-10**] 11:44 PM
   Infusions:
   Phenylephrine - 1.2 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2105-12-10**] 12:12 PM
   Famotidine (Pepcid) - [**2105-12-10**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2105-12-10**] 11:44 PM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt unresponsive
   Flowsheet Data as of  [**2105-12-11**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 64 (63 - 80) bpm
   BP: 113/47(70) {76/37(51) - 160/64(96)} mmHg
   RR: 22 (13 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,082 mL
                                                                    725 mL
   PO:
             TF:
                                                                  1,148 mL
                                                                    217 mL
   IVF:
                                                                  1,534 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    370 mL
   Urine:
                                                                  1,420 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,662 mL
                                                                    355 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 450 (450 - 450) mL
   PS : 12 cmH2O
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.37/44/97 (6:15am)
   Ve: 10 L/min
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: RRR. 2/6 SEM at LSB
   Respiratory / Chest:  Course Breath Sounds Anteriorly, bilaterally.
   (Expansion: Symmetric), (Breath Sounds:: , No(t) Crackles : , No(t)
   Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Not Distended
   Extremities: 1+ edema At LE, 2+ edema at UE bilaterally
   Labs / Radiology
   421 K/uL
   9.7 g/dL
   125 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.8 mEq/L
   16 mg/dL
   104 mEq/L
   137 mEq/L
   28.0 %
   25.0 K/uL
        [image002.jpg]
                            [**2105-12-8**]  04:43 AM
                            [**2105-12-8**]  04:50 AM
                            [**2105-12-8**]  12:46 PM
                            [**2105-12-8**]  08:33 PM
                            [**2105-12-9**]  03:29 AM
                            [**2105-12-9**]  03:48 AM
                            [**2105-12-9**]  02:28 PM
                            [**2105-12-9**]  08:34 PM
                            [**2105-12-10**]  01:56 AM
                            [**2105-12-11**]  03:56 AM
   WBC
   30.5
   27.6
   23.3
   25.0
   Hct
   32.3
   30.3
   30.0
   27.6
   28.0
   Plt
   395
   351
   313
   421
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   0.6
   TropT
   0.06
   TCO2
   21
   23
   22
   Glucose
   169
   250
   138
   105
   138
   125
   Other labs: PT / PTT / INR:16.9/41.3/1.5, CK / CKMB /
   Troponin-T:228/7/0.06, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   C. Diff (-) x 1. BCx NGTD.
   [**Age over 90 **]yoF with hx of HTN presented with hypoxia, dyspnea, found to have a
   LLL pneumonia.
   .
   # Sepsis:  Up to Neo 1.5 mg. Afebrile overnight. Leukocytosis 25.0.  On
   Zosyn, Vanc, C. Diff (-) x1
   - Trend WBC and fever curve
   - Continue Vanc/zosyn
   - MAP goal of >60
   - f/u sputum, blood, and urine Cx
   - Mechanical ventilation
 daily SBT, wean vent settings as tolerated
   .
   # Acute Hypoxemic Respiratory Failure: Pt now on Pressure Support [**1-15**],
   although pt did not tolerate diuresis. Currently Vanc/Zosyn (although
   no double coverage for pseudomonas).
   - Continue to diurese as tolerate to decrease to wean pressure support
   - Cont pip-tazo, and vancomycin (Currently Day #5) for
   healthcare-associated pneumonia
   - f/u sputum cx
   - blood cx
   .
   # Atrial fibrillation with RVR: NSR overnight.
   - Cont PO Amio
   - IV dilt as needed if back in a-fib.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2105-12-11**] 03:17 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-12-8**] 07:00 AM
   20 Gauge - [**2105-12-8**] 07:00 AM
   PICC Line - [**2105-12-10**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Communication:
   Daily Calls to family to re-confirm goals of care.
   Dr. [**First Name8 (NamePattern2) 2006**] [**Last Name (NamePattern1) 2138**] [**Telephone/Fax (1) 2139**]
   Code status: Full code

2105-12-11 10:13:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2105-12-10**] 10:15 AM
 MULTI LUMEN - STOP [**2105-12-10**] 04:05 PM
   Trial of diuresis yesterday
   Hypotensive SBP - 60's overnight, given 250 cc IV NS and increased neo
   with BP increase to 90's.
   Upper airway secretions reduced with scopolamine patch
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-11**] 07:55 AM
   Vancomycin - [**2105-12-11**] 07:55 AM
   Infusions:
   Phenylephrine - 1.2 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2105-12-10**] 12:12 PM
   Famotidine (Pepcid) - [**2105-12-10**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2105-12-11**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2105-12-11**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 69 (63 - 80) bpm
   BP: 104/46(66) {76/37(51) - 160/64(96)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,082 mL
                                                                  1,484 mL
   PO:
             TF:
                                                                  1,148 mL
                                                                    352 mL
   IVF:
                                                                  1,534 mL
                                                                    982 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    490 mL
   Urine:
                                                                  1,420 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,662 mL
                                                                    994 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 365 (365 - 450) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 15 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.37/44/96.[**Numeric Identifier 7**]/23/0
   Ve: 12.1 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilaterally )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   421 K/uL
   125 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.8 mEq/L
   16 mg/dL
   104 mEq/L
   137 mEq/L
   28.0 %
   25.0 K/uL
        [image002.jpg]
                            [**2105-12-8**]  04:50 AM
                            [**2105-12-8**]  12:46 PM
                            [**2105-12-8**]  08:33 PM
                            [**2105-12-9**]  03:29 AM
                            [**2105-12-9**]  03:48 AM
                            [**2105-12-9**]  02:28 PM
                            [**2105-12-9**]  08:34 PM
                            [**2105-12-10**]  01:56 AM
                            [**2105-12-11**]  03:56 AM
                            [**2105-12-11**]  06:15 AM
   WBC
   27.6
   23.3
   25.0
   Hct
   30.3
   30.0
   27.6
   28.0
   Plt
   [**Telephone/Fax (3) 2259**]
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   TCO2
   21
   23
   22
   26
   Glucose
   [**Telephone/Fax (3) 2260**]38
   125
   Other labs: PT / PTT / INR:16.9/41.3/1.5, CK / CKMB /
   Troponin-T:228/7/0.06, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Microbiology: C. Diff negative x 1
   Assessment and Plan
 ACUTE HYPOXIC RESPIRATORY FAILURE secondary to pneumonia.  Secretions
   are unchanged, thick tan.  Concerning that WBC going back up.  Having
   diarrhea, sending stool for C. Diff.  CXR suggests possible pleural
   effusion, concerned for complicated parapneumonic effusion vs.
   empyema.  Will obtain CT chest today.  Repeat sputum gram stain, C+S,
   blood and urine cultures.  Continue vanco/zosyn.
 ATRIAL FIBRILLATION (AFIB): Remains in SR on amiodarone.
 HYPOTENSION secondary to hypovolemia in setting of diuresis. Improved
   with fluids albeit also required increased neo, now being weaned back
   down.
   ICU Care
   Nutrition:
   Comments: Tube feeds at goal.
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-12-8**] 07:00 AM
   20 Gauge - [**2105-12-8**] 07:00 AM
   PICC Line - [**2105-12-10**] 10:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill
   ------ Protected Section ------
   CT chest shows dense consolidation on the left, mulitlobar involvement,
   areas of external compression with obstruction of bronchus vs.
   endobronchial obstruction. Bronched through ETT with the pulmonary
   fellow, moderate amounts of purulent secretions, suctioned for mucus
   plugs.  Edematous ariways thorughout with external compression.
   Washings sent for gram stain, C+S. Chest CT also shows pleural
   efffusion. If elevated WBC persists, will need to tap.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2105-12-11**] 18:29 ------

2105-12-12 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT Chest
   - Underwent Bronch (multiple mucous plugs)
   - Pan Cultured
   - Reconfirmed code status with family (remains full)
   - TSH WNL
   - Underwent [**Last Name (un) 567**] Stim
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-11**] 07:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-12**] 12:34 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2105-12-11**] 07:59 PM
   Heparin Sodium (Prophylaxis) - [**2105-12-12**] 12:34 AM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain
   Flowsheet Data as of  [**2105-12-12**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36
C (96.8
   HR: 61 (54 - 78) bpm
   BP: 113/47(71) {79/35(51) - 141/62(90)} mmHg
   RR: 17 (0 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,538 mL
                                                                    694 mL
   PO:
             TF:
                                                                    762 mL
                                                                    257 mL
   IVF:
                                                                  1,556 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                    793 mL
                                                                    700 mL
   Urine:
                                                                    793 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,745 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 382 (299 - 420) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.42/39/341/24/1
   Ve: 7.4 L/min
   PaO2 / FiO2: 852
   Physical Examination
   Gen: Intubated, Sedated, Barely responding to commands, withdrawing to
   painful stimuli
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilaterally )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+ Lower extremity edema, 2+ upper
   extremity edema
   Skin:  Warm
   Labs / Radiology
   403 K/uL
   10.1 g/dL
   182 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   15 mg/dL
   102 mEq/L
   134 mEq/L
   29.7 %
   28.9 K/uL
        [image002.jpg]
                            [**2105-12-8**]  08:33 PM
                            [**2105-12-9**]  03:29 AM
                            [**2105-12-9**]  03:48 AM
                            [**2105-12-9**]  02:28 PM
                            [**2105-12-9**]  08:34 PM
                            [**2105-12-10**]  01:56 AM
                            [**2105-12-11**]  03:56 AM
                            [**2105-12-11**]  06:15 AM
                             [**2105-12-12**]  04:24 AM
                             [**2105-12-12**]  04:50 AM
   WBC
   27.6
   23.3
   25.0
   28.9
   Hct
   30.3
   30.0
   27.6
   28.0
   29.7
   Plt
   [**Telephone/Fax (3) 2298**]03
   Cr
   0.6
   0.5
   0.5
   0.6
   0.6
   TCO2
   23
   22
   26
   26
   Glucose
   138
   105
   138
   125
   182
   Other labs: PT / PTT / INR:16.9/41.3/1.5, CK / CKMB /
   Troponin-T:228/7/0.06, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   CT Chest (Pre-Lim)
   Left lower lobe and lingular consolidation with small left effusion.
   Small
   right effusion. Extensive aortic calcifications with dilatation of the
   ascending aorta up to 3.7 cm. Multiple compression fractures of the
   thoracic
   spine, of unknown age.
   Assessment and Plan
   [**Age over 90 **]yoF with hx of HTN presented with hypoxia, dyspnea, found to have a
   LLL pneumonia.
   .
   # Sepsis:  Labile BP overnight  with new between 1.2-1.5 mg. Remains
   afebrile. Leukocytosis now 28.9 from25.0. Although pt was bronched
   yesterday. On Zosyn, Vanc, (Day #6) C. Diff (-) x1. Continued loose
   stool. Abdomen more tympanic.  Not adrenally insufficient.
   - Trending WBC and fever curve
   - Continue Vanc/zosyn
   - Re-send stool for C. Diff x2 more
   - KUB today
   - MAP goal of >60
   - f/u bronch cultures
   - f/u blood, and urine Cx
   - Mechanical ventilation
 daily SBT, wean vent settings as tolerated
   .
   # Acute Hypoxemic Respiratory Failure: Pt now on Pressure Support [**11-15**],
   pt previously did not tolerate diuresis, however net even overnight.
   Currently Vanc/Zosyn (although no double coverage for pseudomonas).
   ABG 7.42/39/341 on [**11-15**] 40%
   - Continue to diurese as tolerate to decrease to wean pressure support
   - Cont pip-tazo, and vancomycin (Currently Day #6) for
   healthcare-associated pneumonia
   - Lighten sedation, for possible SBT later today
   .
   # Atrial fibrillation with RVR: NSR overnight.
   - Cont PO Amio
   - IV dilt as needed if back in a-fib.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2105-12-11**] 07:59 PM 40 mL/hour (At goal)
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-12-8**] 07:00 AM
   20 Gauge - [**2105-12-8**] 07:00 AM
   PICC Line - [**2105-12-10**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Communication:  Comments:
   Code status: Full code (re-confirmed with niece on [**12-11**])
   Disposition: [**Hospital Unit Name 4**]

2105-12-13 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Talked to Nursing home- Pt's baseline is oriented x1, wheelchair
   bound but can stand and pivot, incontinent x2, has periods of agitation
   and can be combative at times.  Nurse states that she was coughing
   prior to admission for at least several days.  Then, called neice who
   was updated on pt's current status and reconfirmed Full Code. Would
   like everything to be done. She will be in the area on Wednesday.
   - Pt back on assist control after increasing frothy sputum and
   Cheyennne-[**Doctor Last Name **] breathing pattern in the afternoon
   - MAP 70 was maintained with Neo
   - Gave 10 IV Lasix at 9p for +300cc during day, 16L in [**Location 2324**]. [**First Name (STitle) 803**] thinks having a representative from the [**Hospital1 **] present during
   fam mtg on Wed will be useful as they know her day to day baseline and
   neice does not seem to
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-12**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-13**] 12:05 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 0.8 mg/hour
   Phenylephrine - 1.6 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-12-12**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-13**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 61 (57 - 73) bpm
   BP: 133/47(78) {86/38(57) - 140/56(86)} mmHg
   RR: 14 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,564 mL
                                                                    671 mL
   PO:
             TF:
                                                                    969 mL
                                                                    261 mL
   IVF:
                                                                  1,225 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                  2,715 mL
                                                                  1,250 mL
   Urine:
                                                                  2,315 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -151 mL
                                                                   -579 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 350 (350 - 429) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 112
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/42/119/29/4
   Ve: 5.9 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Gen: Intubated, sedated
   CV: RRR, no M/R/G
   Pulm: Occasional coarse upper airway sounds, rare wheezes, good breath
   sounds bilaterally
   Abd: soft, mild distention, BS +
   Extr: 2+ edema at ankles, puleses present
   Labs / Radiology
   452 K/uL
   8.8 g/dL
   120 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.3 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   26.0 %
   20.4 K/uL
        [image002.jpg]
                            [**2105-12-9**]  03:48 AM
                            [**2105-12-9**]  02:28 PM
                            [**2105-12-9**]  08:34 PM
                            [**2105-12-10**]  01:56 AM
                            [**2105-12-11**]  03:56 AM
                            [**2105-12-11**]  06:15 AM
                             [**2105-12-12**]  04:24 AM
                             [**2105-12-12**]  04:50 AM
                             [**2105-12-12**]  11:50 AM
                             [**2105-12-13**]  01:28 AM
   WBC
   23.3
   25.0
   28.9
   20.4
   Hct
   27.6
   28.0
   29.7
   26.0
   Plt
   [**Telephone/Fax (3) 2325**]52
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   TCO2
   23
   22
   26
   26
   29
   Glucose
   105
   138
   125
   182
   120
   Other labs: PT / PTT / INR:13.7/75.6/1.2, CK / CKMB /
   Troponin-T:228/7/0.06, Differential-Neuts:84.0 %, Band:0.0 %, Lymph:5.0
   %, Mono:6.0 %, Eos:0.0 %, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   [**Age over 90 **]yoF with hx of HTN presented with hypoxia, dyspnea, found to have a
   LLL pneumonia.
   .
   # Sepsis:  Labile BP overnight  with neo titrated between 1.2-1.5 mg.
   low grade fever to 100.1. Leukocytosis improved. On Zosyn, Vanc, (Day
   #7) C. Diff (-) x1. Continued loose stool, but C diff negative x1 (one
   more pending), and KUB without evidence of megacolon. Not adrenally
   insufficient.
   - Trending WBC and fever curve
   - Continue zosyn, increase vanc based on trough
   - MAP goal of >60
   - f/u bronch cultures
   - f/u blood, and urine Cx
   - Mechanical ventilation
 daily SBT, wean vent settings as tolerated
   .
   # Acute Hypoxemic Respiratory Failure: Pt back on AC, RSBI of 112, pt
   previously did not tolerate diuresis, however net even overnight.
   Currently Vanc/Zosyn (although no double coverage for pseudomonas).
   - Continue to diurese as tolerate to decrease to wean pressure support
   - Cont pip-tazo, and vancomycin (Currently Day #7) for
   healthcare-associated pneumonia
   - Lighten sedation, for possible SBT later today
   .
   # Atrial fibrillation with RVR: NSR overnight.
   - Cont PO Amio
   - IV dilt as needed if back in a-fib.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2105-12-12**] 07:40 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-12-8**] 07:00 AM
   20 Gauge - [**2105-12-8**] 07:00 AM
   PICC Line - [**2105-12-10**] 10:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   After discussion on rounds it was decided that she needs a broncoscopy
   for cultures and to clean out her left lung.  Addtionally we will try
   to diurese as tolerated.
   ------ Protected Section Addendum Entered By:[**Name (NI) 786**] [**Name (NI) 2161**], MD
   on:[**2105-12-13**] 11:45 ------

2105-12-14 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Bronchoscopy without much cleanout of left lung - some mild mucous
   plugging but mostly clear.
   - Remains Neo dependent (up to 2.2mg/hr), but diuresed ~1L despite
   this.  Only given one dose of lasix in AM.
   - Family to come Wednesday.  Suggest having Nursing home staff present
   for family meeting as family seems not to know her baseline well.
   We'll need to call them Monday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-13**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-14**] 12:12 AM
   Infusions:
   Fentanyl - 40 mcg/hour
   Phenylephrine - 2 mcg/Kg/min
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-12-14**] 12:12 AM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain
   Flowsheet Data as of  [**2105-12-14**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 62 (54 - 71) bpm
   BP: 114/46(69) {103/41(65) - 178/68(102)} mmHg
   RR: 22 (11 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,731 mL
                                                                    597 mL
   PO:
             TF:
                                                                    961 mL
                                                                    247 mL
   IVF:
                                                                  1,621 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  3,605 mL
                                                                    510 mL
   Urine:
                                                                  3,255 mL
                                                                    510 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                   -874 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 348 (316 - 449) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 13 cmH2O
   SpO2: 100%
   ABG:
                                    7.40
                                    pCO2
                                     52
                                     pO2
                                     110
                                    HCO3
                                     33
   Ve: 7.5 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Gen: Intubated, sedated
   CV: S1S2, no M/R/G
   Pulm: Coarse upper airway sounds, rare wheezes, poor resp effort
   Abd: soft, mild distention, BS +
   Extr: 2+ edema at ankles, puleses present
   Labs / Radiology
   436 K/uL
   9.3 g/dL
   130 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   14 mg/dL
   97 mEq/L
   133 mEq/L
   26.9 %
   15.6 K/uL
        [image002.jpg]
                            [**2105-12-10**]  01:56 AM
                            [**2105-12-11**]  03:56 AM
                            [**2105-12-11**]  06:15 AM
                             [**2105-12-12**]  04:24 AM
                             [**2105-12-12**]  04:50 AM
                             [**2105-12-12**]  11:50 AM
                             [**2105-12-13**]  01:28 AM
                             [**2105-12-13**]  10:00 AM
                             [**2105-12-13**]  10:14 AM
                             [**2105-12-14**]  04:03 AM
   WBC
   23.3
   25.0
   28.9
   20.4
   15.6
   Hct
   27.6
   28.0
   29.7
   26.0
   27.7
   26.9
   Plt
   [**Telephone/Fax (3) 2325**]52
   436
   Cr
   0.5
   0.6
   0.6
   0.6
   0.5
   TCO2
   26
   26
   29
   33
   Glucose
   138
   125
   182
   120
   130
   Other labs: PT / PTT / INR:13.7/75.6/1.2, CK / CKMB /
   Troponin-T:228/7/0.06, Differential-Neuts:84.0 %, Band:0.0 %, Lymph:5.0
   %, Mono:6.0 %, Eos:0.0 %, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   [**Age over 90 **]yoF with hx of HTN presented with hypoxia, dyspnea, found to have a
   LLL pneumonia.
   .
   # Sepsis:  Continues to be hypotensive  with neo up to 2.2..
   Leukocytosis improved. On Zosyn, Vanc, (Day #8) C. Diff (-) x2. KUB
   without evidence of megacolon. Not adrenally insufficient.
   - Trending WBC and fever curve
   - Continue zosyn, increase vanc based on trough
   - f/u bronch cultures
   - f/u blood, and urine Cx
   - Mechanical ventilation
 daily SBT, wean vent settings as tolerated
   .
   # Acute Hypoxemic Respiratory Failure: Pt diuresed -1L overnight. Pt on
   PS 8/5 overnight. ABG this 7.40/58/112. Currently Vanc/Zosyn (no double
   coverage for pseudomonas).
   - Will increase to PS of 10, while continuing to treat PNA. Net I=O
   - Cont pip-tazo, and vancomycin (Currently Day #8) for
   healthcare-associated pneumonia
   .
   # Atrial fibrillation with RVR: NSR overnight.
   - Cont PO Amio
   - IV dilt as needed if back in a-fib.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2105-12-13**] 07:29 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-12-8**] 07:00 AM
   PICC Line - [**2105-12-10**] 10:15 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: H2
   VAP:  Bundle
   Code status: Full code
   Disposition: [**Hospital Unit Name 4**], Family meeting Wednesday

2105-12-14 11:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2105-12-13**] 12:18 PM
   Continues on pressors
   Oral secretions improved on scopolamine patch
   Patient unable to provide history: Unresponsive, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-14**] 07:45 AM
   Vancomycin - [**2105-12-14**] 08:19 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-12-14**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2105-12-14**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 59 (54 - 67) bpm
   BP: 144/47(72) {109/31(39) - 156/62(85)} mmHg
   RR: 27 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
             Total In:
                                                                  2,731 mL
                                                                  1,317 mL
   PO:
             TF:
                                                                    961 mL
                                                                    439 mL
   IVF:
                                                                  1,621 mL
                                                                    833 mL
   Blood products:
   Total out:
                                                                  3,605 mL
                                                                  1,060 mL
   Urine:
                                                                  3,255 mL
                                                                  1,060 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                   -874 mL
                                                                    257 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (316 - 360) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.40/52/110/29/5
   Ve: 9.3 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   436 K/uL
   130 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   14 mg/dL
   97 mEq/L
   133 mEq/L
   26.9 %
   15.6 K/uL
        [image002.jpg]
                            [**2105-12-11**]  03:56 AM
                            [**2105-12-11**]  06:15 AM
                             [**2105-12-12**]  04:24 AM
                             [**2105-12-12**]  04:50 AM
                             [**2105-12-12**]  11:50 AM
                             [**2105-12-13**]  01:28 AM
                             [**2105-12-13**]  10:00 AM
                             [**2105-12-13**]  10:14 AM
                             [**2105-12-14**]  04:03 AM
                             [**2105-12-14**]  06:53 AM
   WBC
   25.0
   28.9
   20.4
   15.6
   Hct
   28.0
   29.7
   26.0
   27.7
   26.9
   Plt
   421
   403
   452
   436
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   26
   26
   29
   33
   33
   Glucose
   125
   182
   120
   130
   Other labs: PT / PTT / INR:13.7/75.6/1.2, CK / CKMB /
   Troponin-T:228/7/0.06, Differential-Neuts:84.0 %, Band:0.0 %, Lymph:5.0
   %, Mono:6.0 %, Eos:0.0 %, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ACUTE HYPOXIC RESPIRATORY FAILURE:  Continues on vanco/zosyn. Vanco
   dosing increased to [**Hospital1 **] given low levels.  WBC now trending down.
   Continue venitlatory support.
 PNEUMONIA, BACTERIAL, NOSOCOMIAL: As above.
 SEPSIS WITHOUT ORGAN DYSFUNCTION: Still requiring neo.  Will try to
   continue
ATRIAL FIBRILLATION (AFIB): Continues on amiodarone.
HYPONATREMIA: Likely iatrogenic.  [**Month (only) 8**] have component of SIADH given
   lung process.  Will change abx to NS instead of D5 to limit free
   water.  Check afternoon electrolytes.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2105-12-14**] 07:21 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2105-12-8**] 07:00 AM
   PICC Line - [**2105-12-10**] 10:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2105-12-15 07:21:00 Physician Resident Progress Note
Chief Complaint: Pneumonia, sepsis, respiratory failure
   24 Hour Events:
   - Bronchoscopy without much cleanout of left lung - some mild mucous
   plugging but mostly clear.
   - Remains Neo dependent, but diuresed ~1L despite this.  Only given one
   dose of lasix in AM.
   - Family to come Wednesday.  Suggest having Nursing home staff present
   for family meeting as family seems not to know her baseline well.
   We'll need to call them Monday.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-14**] 08:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-15**] 12:27 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 2.2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-12-15**] 12:27 AM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain as pt sedated on versed and
   fentanyl gtts
   Flowsheet Data as of  [**2105-12-15**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 61 (59 - 70) bpm
   BP: 110/43(67) {83/42(57) - 169/66(103)} mmHg
   RR: 22 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,575 mL
                                                                    715 mL
   PO:
             TF:
                                                                    960 mL
                                                                    285 mL
   IVF:
                                                                  1,480 mL
                                                                    392 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    930 mL
   Urine:
                                                                  1,735 mL
                                                                    730 mL
   NG:
   Stool:
                                                                    150 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                    690 mL
                                                                   -213 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 336 (314 - 360) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 134
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/52/113/32/7
   Ve: 6.9 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: on left )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   463 K/uL
   9.3 g/dL
   109 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.3 mEq/L
   13 mg/dL
   97 mEq/L
   134 mEq/L
   27.6 %
   20.2 K/uL
        [image002.jpg]
                             [**2105-12-12**]  04:50 AM
                             [**2105-12-12**]  11:50 AM
                             [**2105-12-13**]  01:28 AM
                             [**2105-12-13**]  10:00 AM
                             [**2105-12-13**]  10:14 AM
                             [**2105-12-14**]  04:03 AM
                             [**2105-12-14**]  06:53 AM
                             [**2105-12-14**]  06:34 PM
                             [**2105-12-14**]  06:54 PM
                             [**2105-12-15**]  04:55 AM
   WBC
   20.4
   15.6
   20.2
   Hct
   26.0
   27.7
   26.9
   27.6
   Plt
   452
   436
   463
   Cr
   0.6
   0.5
   0.6
   0.6
   TCO2
   26
   29
   33
   33
   35
   Glucose
   120
   130
   130
   109
   Other labs: PT / PTT / INR:12.9/55.2/1.0, CK / CKMB /
   Troponin-T:228/7/0.06, Differential-Neuts:84.0 %, Band:0.0 %, Lymph:5.0
   %, Mono:6.0 %, Eos:0.0 %, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   [**Age over 90 **]yoF with hx of HTN presented with hypoxia, dyspnea, found to have a
   LLL pneumonia.
   .
   # Sepsis:  Continues to be hypotensive  with neo up to 2.2..
   Leukocytosis worstened. On Zosyn, Vanc, (Day #9) C. Diff (-) x3. KUB
   without evidence of megacolon. Not adrenally insufficient.
   - Trending WBC and fever curve
   - Continue zosyn
   -Vanco trough o/n 27.2. Will discuss decr Vanco currently at 1000mg Q
   12 hrs
   - f/u blood, and urine Cx
   .
   # Acute Hypoxemic Respiratory Failure: Pt +700cc overnight. Pt on SIMV
   overnight. ABG this 7.40/58/112. Currently Vanc/Zosyn (no double
   coverage for pseudomonas).
   - Will change to PS if tolerated today
   - Cont pip-tazo, and vancomycin (Currently Day #9) for
   healthcare-associated pneumonia
   .
   # Atrial fibrillation with RVR: NSR overnight.
   - Cont PO Amio- change to 400 [**Hospital1 **] tomorrow (after 1 wk 400 TID
   completed)
   - IV dilt as needed if back in a-fib.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2105-12-14**] 07:21 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2105-12-8**] 07:00 AM
   PICC Line - [**2105-12-10**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   I saw and examined the patient on morning rounds with the medical ICU
   resident, reviewed 24 hour events and was present during key components
   of the services provided. Continues to be pressor dependent. Temp spkie
   to 101 overnight.
   Continues in respiratory failure, ventilator dependent.  Minimal
   secetions upon suctioning.  Positive fluid balance again overnight.
   Lungs with scattered rhonchi, decreased BS at left base.
   WBC now greater than 20.  No new micro data.
   CXR: techincally limited study given kyphosis.
   No improvement and with increasing WBC, fever and hypotension requiring
   increased pressors concerned for superimposed infectious source not
   being covered with current antibiotics.  Repeat blood cultures
   pending.  Send UA, C + S.  Chest CT to evaluate for pleural fluid that
   we can consider tapping.  Plan for family meeting tomorrow with
   patient
s niece.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2105-12-15**] 11:35 ------
   Time spent above 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2105-12-15**] 11:35 ------

2105-12-16 10:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Neo titrated up last night given labile BPs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-15**] 08:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-16**] 12:04 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Phenylephrine - 2.8 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2105-12-15**] 08:22 PM
   Fentanyl - [**2105-12-16**] 12:03 AM
   Heparin Sodium (Prophylaxis) - [**2105-12-16**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2105-12-16**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 65 (56 - 68) bpm
   BP: 123/54(79) {49/28(36) - 156/62(93)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,705 mL
                                                                    908 mL
   PO:
             TF:
                                                                    962 mL
                                                                    292 mL
   IVF:
                                                                  1,463 mL
                                                                    616 mL
   Blood products:
   Total out:
                                                                  3,310 mL
                                                                    765 mL
   Urine:
                                                                  3,110 mL
                                                                    765 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                   -605 mL
                                                                    143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 383 (333 - 490) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 3.9 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: No(t) Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: scattered)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent, BUE 2+ edema
   Skin:  Cool, extremeities, more mottled
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   426 K/uL
   114 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.0 mEq/L
   12 mg/dL
   98 mEq/L
   137 mEq/L
   26.0 %
   16.5 K/uL
        [image002.jpg]
                             [**2105-12-12**]  11:50 AM
                             [**2105-12-13**]  01:28 AM
                             [**2105-12-13**]  10:00 AM
                             [**2105-12-13**]  10:14 AM
                             [**2105-12-14**]  04:03 AM
                             [**2105-12-14**]  06:53 AM
                             [**2105-12-14**]  06:34 PM
                             [**2105-12-14**]  06:54 PM
                             [**2105-12-15**]  04:55 AM
                             [**2105-12-16**]  04:01 AM
   WBC
   20.4
   15.6
   20.2
   16.5
   Hct
   26.0
   27.7
   26.9
   27.6
   26.0
   Plt
   452
   436
   463
   426
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   TCO2
   29
   33
   33
   35
   Glucose
   120
   130
   130
   109
   114
   Other labs: PT / PTT / INR:13.2/35.2/1.1, CK / CKMB /
   Troponin-T:228/7/0.06, Differential-Neuts:88.3 %, Band:0.0 %, Lymph:8.1
   %, Mono:2.4 %, Eos:1.1 %, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB):  Continues amiodarone.
 SEPSIS WITHOUT ORGAN DYSFUNCTION:  Continues hypotensive requiring
   pressors.  No positive blood cultures.
 PNEUMONIA, BACTERIAL, NOSOCOMIAL:  Continues vanco/zosyn.  No new
   micro data.  Blood tinged purlulent secretions with suctioning.  CT
   chest shows minimal change from prior.  Niece coming from [**State 966**],
   trying to arrange family meeting. She is not sure she will be able to
   come in today. Patient updated yesterday on lack of clinical progress.
 ANEMIA:  Stable hct.
   ICU Care
   Nutrition:
   Comments: Tube feeds at goal
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2105-12-8**] 07:00 AM
   PICC Line - [**2105-12-10**] 10:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2105-12-17 07:01:00 Physician Resident Progress Note
Chief Complaint: PNA, Sepsis, Resp failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2105-12-16**] 11:31 AM
   - d/c'd A-line
   - Sputum Cx sent- not growth to date
   - Similar episode of hypotension overnight requiring uptitration of Neo
   - Family has arrived and conversation indicated they will likely move
   toward extubation/CMO, but wish to discuss this with daughter-in-law
   and brother.
   - Plan to make decision tomorrow.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-16**] 08:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-17**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2105-12-16**] 08:04 PM
   Heparin Sodium (Prophylaxis) - [**2105-12-17**] 12:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:  unable to obtain at this time
   Flowsheet Data as of  [**2105-12-17**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 67 (58 - 68) bpm
   BP: 104/39(55) {56/18(28) - 146/48(69)} mmHg
   RR: 14 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  3,049 mL
                                                                    739 mL
   PO:
             TF:
                                                                    921 mL
                                                                    246 mL
   IVF:
                                                                  2,039 mL
                                                                    443 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    330 mL
   Urine:
                                                                  1,440 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,459 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 430 (303 - 465) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely, Diminished: on left)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   318 K/uL
   8.5 g/dL
   133 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.6 mEq/L
   12 mg/dL
   97 mEq/L
   133 mEq/L
   24.7 %
   14.0 K/uL
        [image002.jpg]
                             [**2105-12-13**]  01:28 AM
                             [**2105-12-13**]  10:00 AM
                             [**2105-12-13**]  10:14 AM
                             [**2105-12-14**]  04:03 AM
                             [**2105-12-14**]  06:53 AM
                             [**2105-12-14**]  06:34 PM
                             [**2105-12-14**]  06:54 PM
                             [**2105-12-15**]  04:55 AM
                             [**2105-12-16**]  04:01 AM
                             [**2105-12-17**]  05:45 AM
   WBC
   20.4
   15.6
   20.2
   16.5
   14.0
   Hct
   26.0
   27.7
   26.9
   27.6
   26.0
   24.7
   Plt
   452
   436
   463
   426
   318
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   TCO2
   33
   33
   35
   Glucose
   120
   130
   130
   109
   114
   Other labs: PT / PTT / INR:13.2/35.2/1.1, CK / CKMB /
   Troponin-T:228/7/0.06, Differential-Neuts:88.3 %, Band:0.0 %, Lymph:8.1
   %, Mono:2.4 %, Eos:1.1 %, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   .
   [**Age over 90 **]yoF with hx of HTN presented with hypoxia, dyspnea, found to have a
   LLL pneumonia.
   .
   # Sepsis:  Continues to be hypotensive  with neo up to 2.5 this am but
   was up to 3 for hypotension last night. Leukocytosis down to 14 from 16
   yesterday. On Zosyn, Vanc, (Day #11) C. Diff (-) x4. Not adrenally
   insufficient by [**Last Name (un) **] stim test. CT chest [**12-15**] showed little improvement
   of right apical opacities but was otherwise unchanged.
   - Trending WBC and fever curve
   - Continue zosyn
   -Vanco trough tonight
   - f/u blood, and urine Cx- currently no growth
   .
   # Acute Hypoxemic Respiratory Failure: Pt +1500cc yest, +500cc
   overnight. Pt on SIMV overnight.  Currently Vanc/Zosyn (no double
   coverage for pseudomonas).
   - Will change to PS if tolerated today
   - Cont pip-tazo, and vancomycin (Currently Day #11) for
   healthcare-associated pneumonia
   .
   # Atrial fibrillation with RVR: NSR overnight.
   - Cont PO Amio [**Hospital1 **]
   - IV dilt as needed if back in a-fib.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2105-12-16**] 08:00 PM 37.[**Telephone/Fax (5) 2417**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2105-12-10**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2105-12-17 12:19:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2105-12-16**] 11:31 AM
   Discussions by our team with family members and HCP.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-17**] 08:00 AM
   Vancomycin - [**2105-12-17**] 08:35 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2105-12-16**] 08:04 PM
   Heparin Sodium (Prophylaxis) - [**2105-12-17**] 08:08 AM
   Other medications:
   zosyn, sqh, nimenda, chg, fentanyl infusion, midaz infusion, neo @ 2,
   H2B, SQI, alb/atr, vanco IV, amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-17**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 59 (58 - 67) bpm
   BP: 107/36(53) {56/18(28) - 146/48(69)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 63.2 kg (admission): 49 kg
   Height: 62 Inch
             Total In:
                                                                  3,050 mL
                                                                  1,703 mL
   PO:
             TF:
                                                                    922 mL
                                                                    460 mL
   IVF:
                                                                  2,039 mL
                                                                  1,014 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    650 mL
   Urine:
                                                                  1,440 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,460 mL
                                                                  1,053 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 451 (303 - 465) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Thin, kyphoscoliosis
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Abdominal: Soft, Non-tender; protuberant
   Extremities: 2+ edema
   Skin:  warm
   Neurologic: responds to noxious stimuli
   Labs / Radiology
   8.5 g/dL
   318 K/uL
   133 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.6 mEq/L
   12 mg/dL
   97 mEq/L
   133 mEq/L
   24.7 %
   14.0 K/uL
        [image002.jpg]
                             [**2105-12-13**]  01:28 AM
                             [**2105-12-13**]  10:00 AM
                             [**2105-12-13**]  10:14 AM
                             [**2105-12-14**]  04:03 AM
                             [**2105-12-14**]  06:53 AM
                             [**2105-12-14**]  06:34 PM
                             [**2105-12-14**]  06:54 PM
                             [**2105-12-15**]  04:55 AM
                             [**2105-12-16**]  04:01 AM
                             [**2105-12-17**]  05:45 AM
   WBC
   20.4
   15.6
   20.2
   16.5
   14.0
   Hct
   26.0
   27.7
   26.9
   27.6
   26.0
   24.7
   Plt
   452
   436
   463
   426
   318
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   33
   33
   35
   Glucose
   120
   130
   130
   109
   114
   133
   Other labs: PT / PTT / INR:13.2/50.9/1.1, CK / CKMB /
   Troponin-T:228/7/0.06, Differential-Neuts:88.3 %, Band:0.0 %, Lymph:8.1
   %, Mono:2.4 %, Eos:1.1 %, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   [**Age over 90 **]-year-old woman pneumonia, respiratory failure, and shock.
 RESPIRATORY FAILURE, ACUTE
 PNEUMONIA, BACTERIAL, NOSOCOMIAL:
   - continue antibiotics
   - hold sedation
   - trial of SBT
   - if SBT unsuccessful, will discuss with family regarding prognosis
 ATRIAL FIBRILLATION (AFIB):  Continues amiodarone.
 SEPTIC SHOCK
   - on Neo (may be secondary to sedation)
   - continue antibiotics (though specific bacterial source not
   identified)
 ANEMIA:
   - follow hct
 GOALS OF CARE
   Our team has discussed with her HCP.  She does not want escalation of
   care.  We will discuss further depending on response to sedation hold
   and SBT.  Prognosis is quite guarded.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2105-12-17**] 08:39 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2105-12-10**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:  35 minutes
   Patient is critically ill

2105-12-18 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Placed on PS 5/5 trial during day yesterday. Was stable overnight on
   this setting
   - On going discussions with family members- they will not be coming in
   again. Made pt DNR yesterday am
   - Removed sedation during the day changed to bolused Fentanyl PRN but
   now back on Fentanyl gtt at 25 /hr
   -Pt having increased oral secretions overnight and
   Patient unable to provide history: not interacting with staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-17**] 08:35 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-17**] 11:53 PM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2105-12-17**] 10:11 PM
   Fentanyl - [**2105-12-17**] 10:11 PM
   Heparin Sodium (Prophylaxis) - [**2105-12-17**] 11:53 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2105-12-18**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 72 (59 - 104) bpm
   BP: 125/49(68) {91/31(47) - 147/61(82)} mmHg
   RR: 19 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.2 kg (admission): 49 kg
   Height: 62 Inch
             Total In:
                                                                  2,840 mL
                                                                    520 mL
   PO:
             TF:
                                                                    942 mL
                                                                    293 mL
   IVF:
                                                                  1,603 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    400 mL
   Urine:
                                                                  1,380 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,460 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 124 (124 - 451) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: on right and at left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed, wiggles toes to
   command. does not squeeze fingers to command
   Labs / Radiology
   349 K/uL
   8.9 g/dL
   137 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.0 mEq/L
   11 mg/dL
   100 mEq/L
   137 mEq/L
   26.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2105-12-13**]  10:00 AM
                             [**2105-12-13**]  10:14 AM
                             [**2105-12-14**]  04:03 AM
                             [**2105-12-14**]  06:53 AM
                             [**2105-12-14**]  06:34 PM
                             [**2105-12-14**]  06:54 PM
                             [**2105-12-15**]  04:55 AM
                             [**2105-12-16**]  04:01 AM
                             [**2105-12-17**]  05:45 AM
                             [**2105-12-18**]  04:53 AM
   WBC
   15.6
   20.2
   16.5
   14.0
   13.4
   Hct
   27.7
   26.9
   27.6
   26.0
   24.7
   26.7
   Plt
   436
   463
   426
   318
   349
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   33
   33
   35
   Glucose
   130
   130
   109
   114
   133
   137
   Other labs: PT / PTT / INR:13.2/50.9/1.1, CK / CKMB /
   Troponin-T:228/7/0.06, Differential-Neuts:88.3 %, Band:0.0 %, Lymph:8.1
   %, Mono:2.4 %, Eos:1.1 %, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   [**Age over 90 **]yoF with hx of HTN presented with hypoxia, dyspnea, found to have a
   LLL pneumonia.
   .
   # Sepsis:  Continues to be hypotensive  with neo at 1.5 this am. BP
   cuff taking measurements Q hr. A line out. Leukocytosis down to 13.4
   from 14 yesterday. On Zosyn, Vanc, (Day #12) C. Diff (-) x4. Not
   adrenally insufficient by [**Last Name (un) **] stim test. CT chest [**12-15**] showed a little
   improvement of right apical opacities but was otherwise unchanged.
   - Trending WBC and fever curve
   - Continue zosyn
   -Vanco trough last night 23.9. Will continue current dose 750 Q 12
   - f/u blood, and urine Cx- currently no growth
   .
   # Acute Hypoxemic Respiratory Failure: Pt +1500cc yest, +120cc
   overnight. Pt on PS 5/5 since yesterday am.  Currently Vanc/Zosyn (no
   double coverage for pseudomonas).
   - Will discuss with team possibility for extubation today. Will talk to
   family to discuss if re-intubation would be appropriate in this pt if
   her respiratory status should decline after extubation.
   - Cont pip-tazo, and vancomycin (Currently Day #12) for
   healthcare-associated pneumonia
   .
   # Atrial fibrillation with RVR: NSR overnight.
   - Cont PO Amio [**Hospital1 **]
   - IV dilt as needed if back in a-fib.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2105-12-17**] 08:39 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2105-12-10**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2105-12-18 11:15:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   sedation weaned
   doing well now on PSV 5/5
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-17**] 11:53 PM
   Vancomycin - [**2105-12-18**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2105-12-18**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2105-12-18**] 08:00 AM
   Midazolam (Versed) - [**2105-12-18**] 08:00 AM
   Other medications:
   vancomycin, zosyn, SQH, nimenda, chg, phenylephrine, H2B, SQI,
   bronchodilators, amio 400 [**Hospital1 **], fentanyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-18**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 78 (59 - 104) bpm
   BP: 118/47(64) {91/31(47) - 155/64(86)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.2 kg (admission): 49 kg
   Height: 62 Inch
             Total In:
                                                                  2,840 mL
                                                                  1,172 mL
   PO:
             TF:
                                                                    942 mL
                                                                    445 mL
   IVF:
                                                                  1,603 mL
                                                                    626 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    575 mL
   Urine:
                                                                  1,380 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,460 mL
                                                                    597 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 320 (124 - 426) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, protuberant
   Extremities: Right: 1+, Left: 1+, UE edema
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   349 K/uL
   137 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.0 mEq/L
   11 mg/dL
   100 mEq/L
   137 mEq/L
   26.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2105-12-13**]  10:00 AM
                             [**2105-12-13**]  10:14 AM
                             [**2105-12-14**]  04:03 AM
                             [**2105-12-14**]  06:53 AM
                             [**2105-12-14**]  06:34 PM
                             [**2105-12-14**]  06:54 PM
                             [**2105-12-15**]  04:55 AM
                             [**2105-12-16**]  04:01 AM
                             [**2105-12-17**]  05:45 AM
                             [**2105-12-18**]  04:53 AM
   WBC
   15.6
   20.2
   16.5
   14.0
   13.4
   Hct
   27.7
   26.9
   27.6
   26.0
   24.7
   26.7
   Plt
   436
   463
   426
   318
   349
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   33
   33
   35
   Glucose
   130
   130
   109
   114
   133
   137
   Other labs: PT / PTT / INR:13.2/50.9/1.1, CK / CKMB /
   Troponin-T:228/7/0.06, Differential-Neuts:88.3 %, Band:0.0 %, Lymph:8.1
   %, Mono:2.4 %, Eos:1.1 %, D-dimer:1665 ng/mL, Lactic Acid:1.7 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **]-year-old woman pneumonia, respiratory failure, and shock.
 RESPIRATORY FAILURE, ACUTE
 PNEUMONIA, BACTERIAL, NOSOCOMIAL:
   -          doing better on PSV 5/5 with decreased sedation
   -          will attempt trial of extubation today
   -          will d/w family prior to extubation: would potentially be
   reasonable to not pursue reintubation if required, given family
   discussions of patient
s stated wishes
 ATRIAL FIBRILLATION (AFIB):  Continues amiodarone.  Will need taper.
 SEPTIC SHOCK
   - on Neo.  Not completely clear why she is requiring.
   - continue antibiotics (though specific bacterial source not
   identified).  If no source identified will complete 14d course.
 ANEMIA:
   - follow hct
 GOALS OF CARE
   Our team has discussed with her HCP.  She does not want escalation of
   care.  Other discussions as above.
   ICU Care
   Nutrition: hold TF for now.
   ProBalance (Full) - [**2105-12-17**] 08:39 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2105-12-10**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill